US08609644B2
cis-4-Aminocyclohexyloxyamine dihydrochloride (III-c)
cis-4-(tert-Butoxycarbonyl)aminocyclohexyloxyamine (0.80 g) was dissolved in a 5M HCl solution in EtOAc (20 mL). After 1 h the solvent was removed under reduced pressure to give the title compound III-c (0.64 g, 99%) as a white solid. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 11.03 (3H, bb), 8.08 (3H, bb), 4.26 (1H, m), 3.02 (1H, m), 1.50-2.10 (8H, m).

reactant | cis-4-(tert-Butoxycarbonyl)aminocyclohexyloxyamine | 0.80 g | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)ON | C11H22N2O3
reactant | HCl | 5M | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | cis-4-Aminocyclohexyloxyamine dihydrochloride | Cl.Cl.N[C@H]1CC[C@H](CC1)ON | InChI=1S/C6H14N2O.2ClH/c7-5-1-3-6(9-8)4-2-5;;/h5-6H,1-4,7-8H2;2*1H/t5-,6+;;
